US04818761
(a) Preparation of 1-benzyl-2-chloromethylbenzimidazole
N-benzyl-o-phenylenediamine (3 g, 15 mmol), which is a known compound, was added to polyphosphoric ester (10 g), to which monochloroacetic acid (1.1 g, 12 mmol) was added and heated at 120° C. for 1 hour. Then water was added to the mixture to decompose remaining polyphosphoric ester. The resultant was refined in a conventional process and the title intermediate (2.25 g, 8.8 mmol) was obtained.

reactant | N-benzyl-o-phenylenediamine | 15 mmol, 3 g | C(C1=CC=CC=C1)NC1=C(C=CC=C1)N | C13H14N2
reactant | monochloroacetic acid | 12 mmol, 1.1 g | ClCC(=O)O | C2H3ClO2
solvent | water | O | H2O
product | 1-benzyl-2-chloromethylbenzimidazole | 8.8 mmol, 2.25 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CCl | C15H13ClN2
